US05189054
Preparation of 3-[(phenacyl)methylamino]-2-carboxy-6-chloroindole
Dissolve 3-[(phenacyl)methylamino]-2-carbmethoxy-6-chloroindole from above, in tetrahydrofuran (5 mL) and water (5 mL). Add lithium hydroxide and stir for 8 hours at 40° C. Dilute the reaction with water(10 mL) and ethyl acetate (10 mL). Separate the layers and acidify the aqueous layer. Extract the aqueous with ethyl acetate, dry the organic phase over magnesium sulfate, filter and concentrate in vacuo. Recrystallize from ethyl acetate/hexane to yield the title compound (75 mg); mp 250°-255° C.

reactant | 3-[(phenacyl)methylamino]-2-carbmethoxy-6-chloroindole | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C19H17ClN2O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-[(phenacyl)methylamino]-2-carboxy-6-chloroindole | 75 mg | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC=C12)Cl)C(=O)O | C18H15ClN2O3
